US08211908B2
To a suspension of 3.8 g of pyridine-2,3-diamine in 100 mL of dioxane, 7.1 g of a 45 to 50% toluene solution of ethyl oxoacetate was added, and the mixture was stirred at room temperature for 1 hour, and then heated under reflux while stirring for 1 hour. The reaction mixture was cooled with ice bath, and diethyl ether was added thereto. The solid was filtered off to obtain 3.9 g of pyrido(2,3-b)pyrazin-2(1H)-one as a light brown solid.

reactant | pyridine-2,3-diamine | 3.8 g | N1=C(C(=CC=C1)N)N | C5H7N3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl oxoacetate | O=CC(=O)OCC | C4H6O3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | pyrido(2,3-b)pyrazin-2(1H)-one | 3.9 g | N1C2=C(N=CC1=O)N=CC=C2 | C7H5N3O
